US07091361B2
6-Amino-7-Chloro-5-Fluoro-2-Methylbenzoxazole (12)
6-Amino-5-fluoro-2-methylbenzoxazole (12 g, 72.22 mMole) was dissolved in ethyl acetate (100 mL) containing dry pryidine (5.8 mL, 72.22 mMole). At room temperature and with good stirring, sulfuryl chloride (7.0 mL, 86.66 mMole) was added drop by drop over a 20-minute period. After stirring at room temperature for about 30 minutes, the reaction was diluted with ethyl acetate, washed with 2N-HCl, dried (MgSO4), filtered and concentrated to give a solid. This solid was dissolved in methylene chloride and passed through a short column of silica gel eluting with methylene chloride to give the product. Yield 5.0 g.

reactant | 6-Amino-5-fluoro-2-methylbenzoxazole | 72.22 mMole, 12 g | NC1=CC2=C(N=C(O2)C)C=C1F | C8H7FN2O
reactant | sulfuryl chloride | 86.66 mMole, 7.0 mL | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 6-Amino-7-Chloro-5-Fluoro-2-Methylbenzoxazole | NC1=C(C2=C(N=C(O2)C)C=C1F)Cl | C8H6ClFN2O
